*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:53:00 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "SDFFRX4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  SDFFRX4 RN Q SE SI QN CK D
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET RN 1.00309e-15
*|P (RN X 0 3.7000 0.6650)
*|I (Mmn35:g Mmn35 g X 0 3.2425 0.5025)
*|I (Mmn45@1:g Mmn45@1 g X 0 4.7625 0.4725)
*|I (Mmn45:g Mmn45 g X 0 5.3525 0.4725)
*|I (Mmp35:g Mmp35 g X 0 3.3225 1.1375)
*|I (Mmp45:g Mmp45 g X 0 4.6625 1.1850)
*|S (RN:2 3.2850 0.8350)
*|S (RN:11 3.7350 0.6650)
C1 Mmp45:g VSS 4.5008e-16
C2 Mmp35:g VSS 4.56797e-17
C3 Mmn45:g VSS 4.8411e-17
C4 Mmn45@1:g VSS 5.00562e-17
C5 Mmn35:g VSS 5.60653e-17
C6 RN:11 VSS 1.97872e-16
C7 RN:2 VSS 1.45295e-16
C8 RN VSS 9.62889e-18
Rl1 RN:2 Mmn35:g 87.912086 $W=0.039
Rl2 Mmp35:g RN:2 63.461536 $W=0.039
Rl3 Mmn45@1:g Mmp45:g 26.923077 $W=0.039
Rl4 Mmp45:g Mmn45:g 30.564289 $W=0.039
Rk5 RN:11 RN 0.003081 $W=0.08
Rk6 RN:11 RN:2 45.473091 $W=0.08
Rk7 RN:11 Mmp45:g 1.201609 $W=0.07
*
*|NET Q 3.21864e-16
*|P (Q X 0 5.9000 0.8550)
*|I (Mmn55@1:d Mmn55@1 d X 0 5.7200 0.4450)
*|I (Mmp55:d Mmp55 d X 0 5.9100 1.1450)
C9 Mmp55:d VSS 1.74138e-16
C10 Mmn55@1:d VSS 1.24358e-16
C11 Q VSS 2.33672e-17
Rk8 Mmn55@1:d Q 0.211737 $W=0.1
Rk9 Mmp55:d Q 0.078162 $W=0.1
*
*|NET SE 7.63678e-16
*|P (SE X 0 0.3000 0.6650)
*|I (Mmn10:g Mmn10 g X 0 0.2825 0.4325)
*|I (Mmn14:g Mmn14 g X 0 0.6575 0.4325)
*|I (Mmp10:g Mmp10 g X 0 0.4025 1.3725)
*|I (Mmp12:g Mmp12 g X 0 1.1575 1.3725)
*|S (SE:2 0.3100 0.6400)
*|S (SE:5 0.6950 0.6550)
*|S (SE:7 1.1300 1.0400)
*|S (SE:8 0.5700 0.6100)
*|S (SE:9 0.3100 0.6400)
C12 Mmp12:g VSS 5.89904e-17
C13 Mmp10:g VSS 5.80703e-17
C14 Mmn14:g VSS 6.57183e-17
C15 Mmn10:g VSS 2.33218e-17
C16 SE:8 VSS 1.41001e-16
C17 SE:2 VSS 1.03981e-16
C18 SE:5 VSS 8.21725e-17
C19 SE:7 VSS 2.30423e-16
Rl10 SE:2 Mmn10:g 39.560440 $W=0.039
Rl11 Mmn14:g SE:5 88.463600 $W=0.039
Rl12 Mmp10:g SE:2 236.104095 $W=0.039
Rl13 Mmp12:g SE:7 118.768692 $W=0.039
Rk14 SE:7 SE:8 1.221213 $W=0.08
Rk15 SE:8 SE:5 0.093495 $W=0.09
Rk16 SE:9 SE 0.003679 $W=0.15
Rk17 SE:2 SE:9 45.000000 $W=0.09
Rk18 SE:8 SE:9 0.199538 $W=0.09
*
*|NET SI 3.00614e-16
*|P (SI X 0 0.5000 0.8550)
*|I (Mmn13:g Mmn13 g X 0 0.5525 0.4325)
*|I (Mmp13:g Mmp13 g X 0 0.6075 1.3725)
*|S (SI:2 0.5800 0.8500)
C20 Mmp13:g VSS 5.6747e-17
C21 Mmn13:g VSS 6.49516e-17
C22 SI:2 VSS 1.2639e-16
C23 SI VSS 5.25256e-17
Rl19 SI:2 Mmn13:g 120.329674 $W=0.039
Rl20 Mmp13:g SI:2 148.076920 $W=0.039
Rk21 SI:2 SI 45.015621 $W=0.31
*
*|NET QN 3.06988e-16
*|P (QN X 0 6.7000 0.8550)
*|I (Mmn57@1:d Mmn57@1 d X 0 6.6600 0.4450)
*|I (Mmp57@1:d Mmp57@1 d X 0 6.7300 1.1450)
C24 Mmp57@1:d VSS 1.70374e-16
C25 Mmn57@1:d VSS 1.15663e-16
C26 QN VSS 2.09505e-17
Rk22 Mmn57@1:d QN 0.222844 $W=0.1
Rk23 Mmp57@1:d QN 0.075995 $W=0.1
*
*|NET CK 2.54949e-16
*|P (CK X 0 1.5000 0.8550)
*|I (Mmn20:g Mmn20 g X 0 1.4675 0.4325)
*|I (Mmp20:g Mmp20 g X 0 1.4675 1.3725)
*|S (CK:2 1.4950 0.6600)
C27 Mmp20:g VSS 5.50684e-17
C28 Mmn20:g VSS 2.8001e-17
C29 CK:2 VSS 9.34813e-17
C30 CK VSS 7.83984e-17
Rl24 CK:2 Mmn20:g 46.845619 $W=0.039
Rl25 Mmp20:g CK:2 219.922531 $W=0.039
Rk26 CK CK:2 45.117245 $W=0.1
*
*|NET D 3.17361e-16
*|P (D X 0 1.3000 0.6650)
*|I (Mmn11:g Mmn11 g X 0 1.2275 0.4325)
*|I (Mmp11:g Mmp11 g X 0 1.2625 1.3725)
*|S (D:2 1.2900 0.7650)
*|S (D:5 1.2900 0.7650)
C31 Mmp11:g VSS 9.13667e-17
C32 Mmn11:g VSS 3.85506e-17
C33 D:5 VSS 9.38002e-17
C34 D:2 VSS 5.46983e-17
C35 D VSS 3.8945e-17
Rl27 D:2 Mmn11:g 88.278069 $W=0.039
Rl28 Mmp11:g D:2 179.537918 $W=0.039
Rk29 D D:5 0.060125 $W=0.1
Rk30 D:2 D:5 45.000000 $W=0.1
*
*|NET SEb 3.83365e-16
*|I (Mmn10:d Mmn10 d X 0 0.1750 0.4325)
*|I (Mmn12:g Mmn12 g X 0 0.8625 0.4325)
*|I (Mmp10:d Mmp10 d X 0 0.3100 1.3725)
*|I (Mmp14:g Mmp14 g X 0 0.8475 1.3725)
*|S (SEb:2 0.8100 1.1650)
*|S (SEb:4 0.3000 1.2300)
C36 Mmp14:g VSS 2.82525e-17
C37 Mmp10:d VSS 1.46617e-17
C38 Mmn12:g VSS 6.3957e-17
C39 Mmn10:d VSS 7.09073e-17
C40 SEb:4 VSS 8.55058e-17
C41 SEb:2 VSS 1.2008e-16
Rl31 Mmn12:g SEb:2 236.583405 $W=0.039
Rl32 SEb:2 Mmp14:g 24.232828 $W=0.039
Rk33 SEb:2 SEb:4 45.419971 $W=0.08
Rk34 SEb:4 Mmn10:d 75.669044 $W=0.09
Rk35 SEb:4 Mmp10:d 62.048134 $W=0.09
*
*|NET n3 8.64555e-20
*|I (Mmn13:d Mmn13 d X 0 0.6050 0.4325)
*|I (Mmn14:s Mmn14 s X 0 0.6050 0.4325)
C42 Mmn13:d VSS 8.64555e-20
Rmw36 Mmn14:s Mmn13:d 0.001000 $W=1
*
*|NET Db 7.37109e-16
*|I (Mmn14:d Mmn14 d X 0 0.7600 0.4325)
*|I (Mmn25:d Mmn25 d X 0 2.6250 0.5025)
*|I (Mmp14:d Mmp14 d X 0 1.0025 1.3725)
*|I (Mmp25:s Mmp25 s X 0 2.4200 1.0075)
*|S (Db:3 2.4100 0.9600)
*|S (Db:4 0.9700 1.2300)
C43 Mmp25:s VSS 2.6007e-16
C44 Mmp14:d VSS 1.59927e-17
C45 Mmn25:d VSS 6.93067e-17
C46 Mmn14:d VSS 1.20789e-16
C47 Db:4 VSS 2.7095e-16
Rk37 Db:3 Db:4 1.640876 $W=0.08
Rk38 Db:4 Mmn14:d 75.743889 $W=0.08
Rk39 Mmn25:d Db:3 75.441780 $W=0.09
Rk40 Db:4 Mmp14:d 62.074505 $W=0.1
Rk41 Mmp25:s Db:3 62.000000 $W=0.09
*
*|NET n1 4.33203e-18
*|I (Mmn12:s Mmn12 s X 0 1.0450 0.4325)
*|I (Mmn11:d Mmn11 d X 0 1.0450 0.4325)
C48 Mmn12:s VSS 4.33203e-18
Rmw42 Mmn11:d Mmn12:s 0.001000 $W=1
*
*|NET CKb 1.12536e-15
*|I (Mmn20:d Mmn20 d X 0 1.5600 0.4325)
*|I (Mmn21:g Mmn21 g X 0 2.0225 0.5875)
*|I (Mmn25:g Mmn25 g X 0 2.7175 0.5025)
*|I (Mmn51:g Mmn51 g X 0 4.2825 0.5025)
*|I (Mmp20:d Mmp20 d X 0 1.6175 1.3725)
*|I (Mmp21:g Mmp21 g X 0 2.0225 1.0075)
*|I (Mmp37:g Mmp37 g X 0 2.7175 1.0075)
*|I (Mmp40:g Mmp40 g X 0 3.9075 1.1375)
*|S (CKb:2 2.0225 0.7650)
*|S (CKb:3 1.9650 0.7650)
*|S (CKb:5 2.1950 1.2800)
*|S (CKb:7 2.6900 1.2250)
*|S (CKb:10 3.9450 1.3450)
*|S (CKb:12 4.2450 0.7400)
*|S (CKb:13 1.6850 0.7650)
C49 Mmp40:g VSS 5.23383e-17
C50 Mmp37:g VSS 3.68071e-17
C51 Mmp21:g VSS 2.56592e-17
C52 Mmp20:d VSS 8.97717e-17
C53 Mmn51:g VSS 5.85942e-17
C54 Mmn25:g VSS 3.95841e-17
C55 Mmn21:g VSS 1.92188e-17
C56 Mmn20:d VSS 5.67415e-17
C57 CKb:13 VSS 8.00513e-17
C58 CKb:2 VSS 8.34758e-18
C59 CKb:3 VSS 4.0769e-17
C60 CKb:5 VSS 8.99729e-17
C61 CKb:7 VSS 1.87136e-16
C62 CKb:10 VSS 1.83985e-16
C63 CKb:12 VSS 1.56388e-16
Rl43 CKb:2 CKb:3 46.266560 $W=0.094
Rl44 Mmn21:g CKb:2 36.252586 $W=0.039
Rl45 Mmn51:g CKb:12 94.232826 $W=0.039
Rl46 Mmp21:g CKb:5 129.935913 $W=0.0325
Rl47 CKb:2 Mmp21:g 47.791046 $W=0.039
Rl48 Mmp37:g CKb:7 74.537926 $W=0.039
Rl49 Mmp37:g Mmn25:g 124.999992 $W=0.039
Rl50 Mmp40:g CKb:10 69.232826 $W=0.039
Rk51 CKb:10 CKb:12 0.647883 $W=0.08
Rk52 CKb:7 CKb:10 1.020311 $W=0.06
Rk53 CKb:7 CKb:5 0.344118 $W=0.09
Rk54 CKb:3 CKb:13 0.176582 $W=0.09
Rk55 CKb:13 Mmn20:d 75.299850 $W=0.08
Rk56 CKb:13 Mmp20:d 62.426529 $W=0.08
*
*|NET Ckbb 6.92268e-16
*|I (Mmn21:d Mmn21 d X 0 2.1150 0.5875)
*|I (Mmn37:g Mmn37 g X 0 3.0275 0.5025)
*|I (Mmn40:g Mmn40 g X 0 3.9975 0.5025)
*|I (Mmp21:d Mmp21 d X 0 2.1150 1.0075)
*|I (Mmp25:g Mmp25 g X 0 2.5125 1.0075)
*|I (Mmp51:g Mmp51 g X 0 4.1275 1.1375)
*|S (Ckbb:2 2.3450 0.6550)
*|S (Ckbb:4 2.9900 0.2550)
*|S (Ckbb:7 3.3850 0.2550)
*|S (Ckbb:9 2.1250 0.6000)
C64 Mmp51:g VSS 7.83871e-17
C65 Mmp25:g VSS 5.08643e-17
C66 Mmp21:d VSS 5.03475e-17
C67 Mmn40:g VSS 8.06142e-17
C68 Mmn37:g VSS 6.76545e-17
C69 Mmn21:d VSS 3.29697e-17
C70 Ckbb:2 VSS 1.15598e-16
C71 Ckbb:4 VSS 1.23191e-16
C72 Ckbb:7 VSS 9.26417e-17
Rl57 Mmn37:g Ckbb:4 98.078979 $W=0.039
Rl58 Mmn40:g Ckbb:7 336.820740 $W=0.039
Rl59 Mmp25:g Ckbb:2 166.131042 $W=0.039
Rl60 Mmp51:g Mmn40:g 201.161255 $W=0.039
Rk61 Ckbb:7 Ckbb:4 0.289307 $W=0.0915
Rk62 Ckbb:4 Ckbb:2 0.784634 $W=0.085
Rk63 Ckbb:2 Ckbb:9 0.163248 $W=0.1
Rk64 Mmn21:d Ckbb:9 75.000000 $W=0.1
Rk65 Ckbb:9 Mmp21:d 62.240650 $W=0.09
*
*|NET n20 3.98318e-16
*|I (Mmn25:s Mmn25 s X 0 2.8725 0.5025)
*|I (Mmn30:g Mmn30 g X 0 3.7025 0.5025)
*|I (Mmp25:d Mmp25 d X 0 2.6150 1.0075)
*|I (Mmp30:g Mmp30 g X 0 3.7025 1.1375)
*|S (n20:2 3.7025 0.6525)
*|S (n20:3 3.4750 0.6750)
*|S (n20:5 2.8200 0.6750)
C73 Mmp30:g VSS 5.9691e-17
C74 Mmp25:d VSS 7.36972e-17
C75 Mmn30:g VSS 3.4686e-17
C76 Mmn25:s VSS 2.60468e-17
C77 n20:5 VSS 7.05498e-17
C78 n20:2 VSS 2.83617e-17
C79 n20:3 VSS 1.05286e-16
Rl66 n20:2 n20:3 109.241051 $W=0.039
Rl67 n20:2 Mmn30:g 28.079685 $W=0.039
Rl68 Mmp30:g n20:2 143.464294 $W=0.039
Rk69 n20:3 n20:5 0.445777 $W=0.09
Rk70 n20:5 Mmn25:s 75.127747 $W=0.09
Rk71 n20:5 Mmp25:d 62.345982 $W=0.09
*
*|NET n5 0
*|I (Mmn37:s Mmn37 s X 0 3.0800 0.5025)
*|I (Mmn36:d Mmn36 d X 0 3.0800 0.5025)
Rmw72 Mmn36:d Mmn37:s 0.001000 $W=1
*
*|NET n7 0
*|I (Mmn36:s Mmn36 s X 0 3.1875 0.5025)
*|I (Mmn35:d Mmn35 d X 0 3.1875 0.5025)
Rmw73 Mmn35:d Mmn36:s 0.001000 $W=1
*
*|NET mout 5.04417e-16
*|I (Mmn36:g Mmn36 g X 0 3.1325 0.5025)
*|I (Mmn30:d Mmn30 d X 0 3.8500 0.5025)
*|I (Mmp36:g Mmp36 g X 0 3.1175 1.1375)
*|I (Mmp30:d Mmp30 d X 0 3.8050 1.1375)
*|S (mout:2 3.0950 0.9300)
*|S (mout:5 3.8050 0.9950)
C80 Mmp30:d VSS 2.18363e-17
C81 Mmp36:g VSS 3.75241e-17
C82 Mmn30:d VSS 8.26425e-17
C83 Mmn36:g VSS 9.47725e-17
C84 mout:5 VSS 1.14255e-16
C85 mout:2 VSS 1.53386e-16
Rl74 Mmn36:g mout:2 122.309753 $W=0.039
Rl75 mout:2 Mmp36:g 24.232828 $W=0.039
Rk76 mout:5 mout:2 45.586674 $W=0.08
Rk77 Mmn30:d mout:5 75.466881 $W=0.08
Rk78 mout:5 Mmp30:d 62.032875 $W=0.125
*
*|NET n30 6.28169e-16
*|I (Mmn40:s Mmn40 s X 0 4.1400 0.5025)
*|I (Mmn46@1:g Mmn46@1 g X 0 4.8675 0.4725)
*|I (Mmn46:g Mmn46 g X 0 5.2075 0.4725)
*|I (Mmp40:d Mmp40 d X 0 4.0175 1.1375)
*|I (Mmp46@1:g Mmp46@1 g X 0 4.8675 1.1850)
*|S (n30:3 5.2075 0.6775)
*|S (n30:4 4.8950 0.6775)
*|S (n30:7 4.8950 0.8350)
*|S (n30:11 4.1000 0.5800)
C86 Mmp46@1:g VSS 9.64631e-17
C87 Mmp40:d VSS 8.93465e-17
C88 Mmn46:g VSS 3.23425e-17
C89 Mmn46@1:g VSS 4.29652e-17
C90 Mmn40:s VSS 2.6998e-17
C91 n30:11 VSS 1.4253e-16
C92 n30:4 VSS 2.87791e-17
C93 n30:3 VSS 2.79452e-17
C94 n30:7 VSS 1.408e-16
Rl79 n30:4 n30:7 20.914930 $W=0.094
Rl80 n30:3 n30:4 98.421654 $W=0.039
Rl81 n30:4 Mmn46@1:g 34.678772 $W=0.039
Rl82 n30:3 Mmn46:g 37.695072 $W=0.039
Rl83 n30:7 Mmp46@1:g 11.572025 $W=0.094
Rl84 Mmp46@1:g n30:3 95.195068 $W=0.039
Rk85 n30:11 n30:7 45.780048 $W=0.08
Rk86 n30:11 Mmn40:s 75.030632 $W=0.09
Rk87 n30:11 Mmp40:d 62.501892 $W=0.06
*
*|NET n11 9.10397e-19
*|I (Mmn51:s Mmn51 s X 0 4.3475 0.5025)
*|I (Mmn50:d Mmn50 d X 0 4.3475 0.5025)
C95 Mmn51:s VSS 9.10397e-19
Rmw88 Mmn50:d Mmn51:s 0.001000 $W=1
*
*|NET qbint 1.3381e-15
*|I (Mmn50:g Mmn50 g X 0 4.4125 0.5025)
*|I (Mmn46@1:d Mmn46@1 d X 0 5.0375 0.4725)
*|I (Mmn55@1:g Mmn55@1 g X 0 5.6175 0.4450)
*|I (Mmn56:g Mmn56 g X 0 7.4975 0.4450)
*|I (Mmp50:g Mmp50 g X 0 4.3375 1.1375)
*|I (Mmp45:d Mmp45 d X 0 4.7650 1.1850)
*|I (Mmp56:g Mmp56 g X 0 7.4875 1.1450)
*|S (qbint:2 4.3750 0.9300)
*|S (qbint:13 5.5450 0.8400)
*|S (qbint:22 7.4600 0.7000)
*|S (qbint:28 6.3800 0.3550)
*|S (qbint:29 6.3600 0.6750)
C96 Mmp56:g VSS 4.74268e-17
C97 Mmp45:d VSS 1.84896e-16
C98 Mmp50:g VSS 3.35992e-17
C99 Mmn56:g VSS 3.14049e-17
C100 Mmn55@1:g VSS 3.09824e-16
C101 Mmn46@1:d VSS 1.08474e-16
C102 Mmn50:g VSS 6.18603e-17
C103 qbint:28 VSS 2.26693e-16
C104 qbint:2 VSS 1.10736e-16
C105 qbint:13 VSS 6.42367e-17
C106 qbint:22 VSS 1.5895e-16
Rl89 Mmn50:g qbint:2 124.999992 $W=0.039
Rl90 Mmn55@1:g qbint:13 52.553020 $W=0.114
Rl91 Mmn56:g qbint:22 32.680244 $W=0.039
Rl92 qbint:2 Mmp50:g 26.373627 $W=0.039
Rl93 qbint:22 Mmp56:g 78.641212 $W=0.039
Rk94 qbint:28 qbint:22 46.052906 $W=0.08
Rk95 qbint:29 qbint:28 0.213441 $W=0.09
Rk96 qbint:28 Mmn46@1:d 75.977837 $W=0.08
Rk97 qbint:29 Mmn55@1:g 45.000000 $W=0.09
Rk98 Mmp45:d qbint:13 0.272536 $W=0.09
Rk99 Mmp45:d qbint:2 45.339180 $W=0.09
*
*|NET 28 0
*|I (Mmn45@1:d Mmn45@1 d X 0 4.8150 0.4725)
*|I (Mmn46@1:s Mmn46@1 s X 0 4.8150 0.4725)
Rmw100 Mmn46@1:s Mmn45@1:d 0.001000 $W=1
*
*|NET 29 1.18163e-18
*|I (Mmn46:s Mmn46 s X 0 5.2800 0.4725)
*|I (Mmn45:d Mmn45 d X 0 5.2800 0.4725)
C107 Mmn46:s VSS 1.18163e-18
Rmw101 Mmn45:d Mmn46:s 0.001000 $W=1
*
*|NET qint 4.32923e-16
*|I (Mmn57@1:g Mmn57@1 g X 0 6.5575 0.4450)
*|I (Mmn56:d Mmn56 d X 0 7.6000 0.4450)
*|I (Mmp56:d Mmp56 d X 0 7.5800 1.1450)
*|S (qint:16 7.6050 0.8900)
C108 Mmp56:d VSS 3.68277e-17
C109 Mmn56:d VSS 4.19575e-17
C110 Mmn57@1:g VSS 3.19769e-16
C111 qint:16 VSS 3.43684e-17
Rk102 qint:16 Mmn57@1:g 45.187630 $W=0.09
Rk103 qint:16 Mmn56:d 75.271202 $W=0.09
Rk104 qint:16 Mmp56:d 20.815557 $W=0.11
*
*|NET n4 0
*|I (Mmp13:d Mmp13 d X 0 0.7275 1.3725)
*|I (Mmp14:s Mmp14 s X 0 0.7275 1.3725)
Rmw105 Mmp14:s Mmp13:d 0.001000 $W=1
*
*|NET n2 0
*|I (Mmp12:s Mmp12 s X 0 1.2100 1.3725)
*|I (Mmp11:d Mmp11 d X 0 1.2100 1.3725)
Rmw106 Mmp11:d Mmp12:s 0.001000 $W=1
*
*|NET n6 1.42075e-16
*|I (Mmp37:s Mmp37 s X 0 2.8275 1.0075)
*|I (Mmp36:d Mmp36 d X 0 3.2200 1.1375)
C112 Mmp36:d VSS 7.21548e-17
C113 Mmp37:s VSS 6.99202e-17
Rk107 Mmp37:s Mmp36:d 124.261154 $W=0.1
*
*|NET n8 2.23881e-18
*|I (Mmp51:s Mmp51 s X 0 4.2325 1.1375)
*|I (Mmp50:d Mmp50 d X 0 4.2325 1.1375)
C114 Mmp51:s VSS 2.23881e-18
Rmw108 Mmp50:d Mmp51:s 0.001000 $W=1
*
*Instance Section
*
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02465P	AS=0.03263P	PD=0.63U	PS=0.74U
+ fw=1.45e-07 sa=1.7e-07 sb=1.325e-06 sca=9.68855 scb=0.00848242 scc=0.000213356
Mmn13	Mmn13:d	Mmn13:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.03263P	PD=0.41U	PS=0.74U
+ fw=1.45e-07 sa=4.4e-07 sb=1.055e-06 sca=9.68855 scb=0.00848242 scc=0.000213356
Mmn14	Mmn14:d	Mmn14:g	Mmn14:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=5.45e-07 sb=9.5e-07 sca=9.68855 scb=0.00848242 scc=0.000213356
Mmn12	Mmn14:d	Mmn12:g	Mmn12:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0464P	PD=0.61U	PS=0.93U
+ fw=1.45e-07 sa=7.5e-07 sb=7.45e-07 sca=9.68855 scb=0.00848242 scc=0.000213356
Mmn11	Mmn11:d	Mmn11:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0464P	AS=0.02828P	PD=0.93U	PS=0.68U
+ fw=1.45e-07 sa=1.115e-06 sb=3.8e-07 sca=9.68855 scb=0.00848242 scc=0.000213356
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02828P	PD=0.57U	PS=0.68U
+ fw=1.45e-07 sa=1.355e-06 sb=1.4e-07 sca=9.68855 scb=0.00848242 scc=0.000213356
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02973P	PD=0.57U	PS=0.7U
+ fw=1.45e-07 sa=2.05e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn25	Mmn25:d	Mmn25:g	Mmn25:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.03843P	PD=0.57U	PS=0.82U
+ fw=1.45e-07 sa=1.4e-07 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn37	Mmn25:s	Mmn37:g	Mmn37:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03843P	AS=0.0087P	PD=0.82U	PS=0.41U
+ fw=1.45e-07 sa=4.5e-07 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.00943P	PD=0.41U	PS=0.42U
+ fw=1.45e-07 sa=5.55e-07 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.00943P	AS=0.06018P	PD=0.42U	PS=1.12U
+ fw=1.45e-07 sa=6.65e-07 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn30	Mmn30:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03625P	AS=0.06018P	PD=0.79U	PS=1.12U
+ fw=1.45e-07 sa=1.125e-06 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn40	Mmn30:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03625P	AS=0.0348P	PD=0.79U	PS=0.77U
+ fw=1.45e-07 sa=1.42e-06 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn51	Mmn40:s	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0348P	AS=0.01232P	PD=0.77U	PS=0.46U
+ fw=1.45e-07 sa=1.705e-06 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.01233P	AS=0.08923P	PD=0.46U	PS=1.6U
+ fw=1.45e-07 sa=1.835e-06 sb=2e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn45@1	Mmn45@1:d	Mmn45@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0123P	AS=0.08923P	PD=0.53U	PS=1.6U
+ fw=2.05e-07 sa=1.46439e-06 sb=2e-06 sca=11.814 scb=0.0116374 scc=0.000520744
Mmn46@1	Mmn46@1:d	Mmn46@1:g	Mmn46@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.06048P	AS=0.0123P	PD=1U	PS=0.53U
+ fw=2.05e-07 sa=1.49512e-06 sb=2e-06 sca=11.814 scb=0.0116374 scc=0.000520744
Mmn46	Mmn46@1:d	Mmn46:g	Mmn46:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.06048P	AS=0.0205P	PD=1U	PS=0.61U
+ fw=2.05e-07 sa=1.59463e-06 sb=2e-06 sca=11.814 scb=0.0116374 scc=0.000520744
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0205P	AS=0.08265P	PD=0.61U	PS=1.43U
+ fw=2.05e-07 sa=1.63707e-06 sb=2e-06 sca=11.814 scb=0.0116374 scc=0.000520744
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0854P	PD=0.84U	PS=1.43U
+ fw=2.6e-07 sa=2e-06 sb=1.6e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn55@1	Mmn55@1:d	Mmn55@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.08471P	PD=0.84U	PS=1.43U	M=4
+ fw=2.6e-07 sa=1.38788e-06 sb=2e-06 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn57@1	Mmn57@1:d	Mmn57@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0854P	PD=0.84U	PS=1.43U	M=4
+ fw=2.6e-07 sa=1.80365e-06 sb=1.1e-06 sca=10.79 scb=0.0100512 scc=0.000418069
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=1.32e-06 sca=14.1047 scb=0.0123052 scc=0.000144089
Mmp13	Mmp13:d	Mmp13:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04193P	AS=0.0344P	PD=0.82U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.115e-06 sca=11.6656 scb=0.00859665 scc=9.9547e-05
Mmp14	Mmp14:d	Mmp14:g	Mmp14:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05697P	AS=0.04192P	PD=0.96U	PS=0.82U
+ fw=2.15e-07 sa=5.85e-07 sb=8.75e-07 sca=10.6337 scb=0.00785382 scc=9.84653e-05
Mmp12	Mmp14:d	Mmp12:g	Mmp12:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05697P	AS=0.0129P	PD=0.96U	PS=0.55U
+ fw=2.15e-07 sa=8.95e-07 sb=5.65e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp11	Mmp11:d	Mmp11:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.0344P	PD=0.55U	PS=0.75U
+ fw=2.15e-07 sa=1e-06 sb=4.6e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05483P	AS=0.0344P	PD=0.94U	PS=0.75U
+ fw=2.15e-07 sa=1.205e-06 sb=2.55e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0498P	PD=0.71U	PS=1.44U
+ fw=2.15e-07 sa=1e-07 sb=1.4e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp25	Mmp25:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=3.8e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp37	Mmp25:d	Mmp37:g	Mmp37:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.03762P	PD=0.75U	PS=0.78U
+ fw=2.15e-07 sa=3.45e-07 sb=1.75e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp36	Mmp36:d	Mmp36:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.07795P	PD=0.75U	PS=1.81U
+ fw=2.15e-07 sa=1.47674e-07 sb=2e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp35	Mmp36:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.11823P	PD=0.75U	PS=1.87U
+ fw=2.15e-07 sa=3.52674e-07 sb=2e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp30	Mmp30:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.11823P	PD=0.75U	PS=1.87U
+ fw=2.15e-07 sa=7.32674e-07 sb=2e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp40	Mmp40:d	Mmp40:g	Mmp30:d	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03762P	AS=0.0344P	PD=0.78U	PS=0.75U
+ fw=2.15e-07 sa=9.37674e-07 sb=2e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp51	Mmp40:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03762P	AS=0.03548P	PD=0.78U	PS=0.76U
+ fw=2.15e-07 sa=1.15767e-06 sb=2e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03548P	AS=0.0697P	PD=0.76U	PS=1.18U
+ fw=2.15e-07 sa=1.36767e-06 sb=2e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0663P	PD=1.06U	PS=1.12U
+ fw=3.9e-07 sa=1.96308e-06 sb=1.4e-07 sca=25.3022 scb=0.0253386 scc=0.00193759
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0947P	PD=0.94U	PS=1.33U	M=2
+ fw=3.1e-07 sa=1.2046e-06 sb=2e-06 sca=13.6224 scb=0.0125368 scc=0.000630866
Mmp46@1	Mmp45:d	Mmp46@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.09145P	PD=0.94U	PS=1.21U	M=2
+ fw=3.1e-07 sa=1.40073e-06 sb=2e-06 sca=13.6224 scb=0.0125368 scc=0.000630866
Mmp55	Mmp55:d	Mmn55@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.07673P	PD=1.1U	PS=1.195U	M=4
+ fw=3.9e-07 sa=1.43455e-06 sb=1.82e-06 sca=19.0259 scb=0.0163587 scc=0.00171562
Mmp57@1	Mmp57@1:d	Mmn57@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.06825P	AS=0.06337P	PD=1.13U	PS=1.105U	M=4
+ fw=3.9e-07 sa=1.78667e-06 sb=1e-06 sca=19.0259 scb=0.0163587 scc=0.00171562
.ENDS
.END
